Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Zonegran / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
Reason for Consultation: epilepsy admission for medication
optimization

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year old female, patient of Dr. ___ has medically and surgically refractory epilepsy who
presented at recommendation of her epileptologist given 
increased
seizure frequency in the setting of recent Fycompa wean and
intolerable side effects of rescue therapy at home who was sent
in by Dr. ___ medication optimization. 

With regards to her epilepsy history, she had seizure onset at
age ___, second at age ___ years (identical twin had seizures
at age ___ and ___, also, remained on phenobarbital until teen 
years,
but had no further events), and refractory since. She had
anterior corpus callosotomy at ___
in ___, and VNS implanted in ___ then subsequently explanted
prior to participation in DBS research trial which was also
removed due to inefficiency. 

She has two types of events:
a.  Subtle onset of hands shaking, various flexion movements of
her arms, seeming altered awareness with dazed eyes, lasts for a
few seconds. Frequency ___ times per day. 
b.  "Big seizures" consisting of body stiffening, dazed eyes and
hyperventilation. No big seizures since ___. 

Her current medications are Felbamate 600 mg QID, Banzel 1000 mg
BID and Epidiolex 1.5 ml per day. She was started on Epidiolex
around ___. At that time she was on Fycompa but was having
significant mood issues. Therefore this was decreased from 4 mg
daily to 2 mg daily on ___. Several days after this decrease
(___), she had a flurry of seizures (over 100 in one day). At
home, her increased seizure frequency was treated with Ativan.
Her mother estimates she received Ativan 1 mg ___ times. This
helped her seizures and she returned to a baseline of ___ per
day. 

Then on ___, Fycompa was weaned completely off. Several days
later ___, ___ again had a flurry of seizures. She again
utilized Ativan as rescue. She also utilized PHT rescue with the
help of her epileptologist. Her mother estimates she received 24
tablets (100 mg each) over a 24 hour period. She became
increasingly dizzy with increased tremor throughout the day and
even fell, striking her right eye. However, her seizures 
returned
to baseline which continued over through the next weekend.

Then on ___, she again had a flurry of seizures at which time
PHT rescue was utilized. Her mother estimates 12 tablets were
used from ___ to ___. On ___ she was more dizzy 
on
and off and again fell with head strike. Her PHT level was
checked and was 26. Her seizures had returned to baseline. On
___ she continued to feel quite dizzy on and off and
could not walk and at times was talking like "a drunken sailor".
She had dysarthria at times and worsening of her baseline 
tremor.
No PHT or Ativan was given ___ or ___ given the
dizziness, slurred speech and return of her baseline seizure
frequency. Given ongoing dizziness, speech changes and tenuous
status, she was sent in to the ED for evaluation and admission
for medication optimization.

She currently does not have dizziness. She thinks her tremor is
somewhat worse. She endorses some slowed thinking and difficulty
speaking at times since taking PHT. She otherwise denies recent
fevers, chills, cough, diarrhea, abdominal pain, or other
infectious symptoms. 

Past medication trials per OMR:  
Phenytoin - ineffective in childhood, has some transient
improvement in seizures post hospitalization in ___
Phenobarbital - effective in childhood
Gabapentin - ineffective
Valproate - ineffective
Zonisamide - ___ reaction
Lamotrigine - ineffective
Topiramate - ineffective, ___ difficulties
Carbamazepine - ineffective, osteoporosis
Lacosamide - ineffective and to cause ___ toxicity with
each increase
Clobazam - possible depression
Rufinamide - current
felbamate - current
Breviact - increased seizures
Fycompa (perampanel) - stopped most recently due to mood issues

 
Past Medical History:
1. Epilepsy as above 
2. Systemic Lupus/lupus nephritis:  stable, weaned off of oral
prednisone; currently on hydroxychloroquine, followed by Dr.
___ for lupus and Dr. ___ for nephrology
3. Hypercholesterolemia:  taking pravastatin 20 mg per day 
4. Osteoporosis:  taking vitamin D, Tums/calcium
5. Hypothyroidism
6. Mood disorder:  followed in the CNU by Dr. ___

___: 
1. Anterior corpus callosal sectioning at ___ in ___
2. Vagal nerve stimulator placed in ___
 
Social History:
___
Family History:
Identical twin sister, and one younger sister.  There is no 
family history of seizures otherwise. Father had mild heart 
attack.

 
Physical Exam:
ON ADMISSION:
==================
VITALS: 98.0 88 18 123/89 MAP: 100.3 98 Room Air

General: Awake, cooperative
HEENT: NC/AT, no scleral icterus noted
Pulmonary: no increased wob
Cardiac: RRR
Abdomen: soft, NT/ND
Extremities: No ___ edema
Skin: no rashes or lesions noted

Neurologic:
**of note, I witnessed a seizure while doing the exam. She had
pronounced increased in her baseline action tremor, then right
and left arm cross body brief flexion movements with blank stare
and dazed look. Resolved after several seconds. There was
associated tachypnea on tele.

-Mental Status: Alert, oriented to "Beginning of ___ ___. She is able to relate her history. She is slow with ___
backwards, made 2 errors, one of which she corrected. Speech is
fluent with only rare stutter. There is no dysarthria. 
Repetition
and comprehension intact. She names high and low ___ objects. 
Able to follow both midline and appendicular commands.  There 
was
no evidence of apraxia or neglect.

-Cranial Nerves:
 II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. VFF to confrontation.
 V: Facial sensation intact to light touch.
 VII: No facial droop, facial musculature symmetric. Rare right
facial twitch and mouth twitch.
 VIII: Hearing intact to ___ bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes in midline with full excursions.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. L>R marked intention tremor and postural tremor ___
mm and present 100% of the time.
   Delt Bic Tri WrE FFl FE  IP Quad Ham TA Gastroc 
 L  5    ___   ___   5    5  5     5    
 R  5    ___   ___   5    5  5     5    

-Sensory: No deficits to light touch, pinprick, proprioception
throughout. No extinction to DSS.

-DTRs:
   Bi Tri ___ Pat Ach
 L  2  2    2    2   0
 R  2  2    2    2   0
 Plantar response was flexor bilaterally.

-Coordination: L>R intention tremor. Diminished RAM bl. 
Dysmetria
on L>R FnF. 
-Gait: did not assess 

ON DISCHARGE:
================
24 HR Data (last updated ___ @ 452)
    Temp: 98.0 (Tm 98.5), BP: 101/65 (___), HR: 69 
(___), RR: 18 (___), O2 sat: 97% (___), O2 delivery: RA  

General: Awake, cooperative
HEENT: NC/AT, no scleral icterus noted
Pulmonary: no increased wob
Cardiac: RRR
Abdomen: soft, NT/ND
Extremities: No ___ edema
Skin: no rashes or lesions noted

Neurologic: 
-Mental Status: Alert, eyes open, oriented to ___, ___. Repetition and comprehension intact. 

Able to follow both midline and appendicular commands.  There 
was
no evidence of apraxia or neglect.

-Cranial Nerves:
 II, III, IV, VI:  PERRL 4to 2mm and brisk. EOMI without
nystagmus though with some saccadic intrusions. 
 V: Facial sensation intact to light touch.
 VII: No facial droop, facial musculature symmetric.
 VIII: Hearing intact to ___ bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes in midline with full excursions.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. L>R marked intention tremor and postural tremor ___
mm. Has full strength throughout upper and lower extremities.

-Sensory: No deficits to light touch. No extinction to DSS.
-DTRs: ___: L>R ataxia on FNF ___ 
-Gait: Narrow based steady gait with normal arm swing.

 
Pertinent Results:
ON ADMISSION:
=================
-WBC: 8.6 RBC: 4.22 Hgb: 12.8 Hct: 40.4 MCV: 96 MCH: 30.3 MCHC: 
31.7* RDW: 14.0 RDWSD: 49.1* Plt Ct: 341 

-Neuts: 75.2* Lymphs: 14.7* Monos: 7.7 Eos: 1.3 Baso: 0.8 Im 
___: 0.3 AbsNeut: 6.45* AbsLymp: 1.26 AbsMono:0.66 AbsEos: 0.11 
AbsBaso: 0.07 

-Glucose: 104* UreaN: 17 Creat: 0.6 Na: 139 K: 4.2 Cl: 105 HCO3: 
19* AnGap: 15 Albumin: 4.0 Calcium: 9.4 Phos: 4.6* Mg:

URINE Blood: NEG Nitrite: NEG Protein: 30*
Glucose: NEG Ketone: NEG Bilirub: NEG Urobiln: NEG pH: 6.0 
Leuks:
MOD* RBC: 4* WBC: 6* Bacteri: NONE Yeast: NONE Epi: 9 

ENDOCRINOLOGY/RHEUMATOLOGY:
============================
-TSH: 2.5 
-___

AED LEVELS:
============
PHENYTOIN                     20.6* 
RUFINAMIDE                    16.0  
FELBAMATE                     PND

IMAGING:
===========
___: ___ CT of Head: no acute process

 
Brief Hospital Course:
___ year old woman with SLE, HLD, hypothyroidism, unspecified 
mood
disorder, and intractable epilepsy s/p anterior corpus
callosotomy at ___ in ___,  s/p VNS
(implanted in ___ then subsequently explanted), s/p DBS
(explanted) admitted for increased seizure frequency in setting
of Fycompa wean and toxicity from rescue phenytoin (dizziness).
Fycompa wean was initiated due to concern for mood instability.
In the hospital her home AEDs were continued without change. She 
was started on Ativan 0.5 mg q8h with minimal to modest 
improvement in EEG and clinical events, so ativan was increased 
to 1mg q8h. She had clinical improvement on Ativan leading to a 
retrial of onfi (previously reported depression on this 
medication). Ativan was tapered off and onfi 5 mg BID was 
initiated. She has 2 days of 0.5 mg Ativan daily to complete 
taper upon discharge. Patient reported return to baseline number 
of daily seizures (___) and cvEEG was discontinued. She denied 
any side effects so far to Onfi. 

Of note, AED levels on admission included a phenytoin of 20.6, 
Banzel of 16. Felbamate level still pending at time of 
discharge. There was discussion about modified ___ diet and 
nutrition was consulted. Patient and family received education, 
patient unsure if she would like to try this diet because some 
of her favorite foods are not within the diet. If interested, 
she would likely require referral to ___ Admission 
for initiation of ketogenic diet.

TRANSITIONAL ISSUES:
=======================
[] Neurology
- Started Onfi 5 mg BID. Room to increase.
- Continue Ativan 0.5 mg taper for 2 more days
- Ketogenic diet initiation discussion ongoing, would likely 
need to be initiated at ___
[] PCP
- ___ of elevated ___. Recheck with only mildly elevated 
titers 1:40.
[] She was seen by ___ who recommended outpatient ___, script 
provided
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Aspirin 81 mg PO DAILY 
2. Epidiolex (cannabidiol (CBD) extract) 1.5 ml oral BID 
3. Escitalopram Oxalate 10 mg PO DAILY 
4. Felbamate 600 mg PO QID 
5. Hydrocortisone Cream 1% 1 Appl TP QID apply to wrist 
6. Hydroxychloroquine Sulfate 300 mg PO DAILY 
7. Levothyroxine Sodium 150 mcg PO DAILY 
8. Multivitamins 1 TAB PO DAILY 
9. Pravastatin 20 mg PO QPM 
10. rufinamide 1000 mg oral BID 
11. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Clobazam 5 mg PO BID 
RX *clobazam 10 mg 0.5 (One half) tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*3 
2.  LORazepam 0.5 mg PO DAILY 
RX *lorazepam 0.5 mg 1 tablet(s) by mouth once a day Disp #*2 
Tablet Refills:*0 
3.  Aspirin 81 mg PO DAILY  
4.  Epidiolex (cannabidiol (CBD) extract) 1.5 ml oral BID  
5.  Escitalopram Oxalate 10 mg PO DAILY  
6.  Felbamate 600 mg PO QID  
7.  Hydrocortisone Cream 1% 1 Appl TP QID apply to wrist  
8.  Hydroxychloroquine Sulfate 300 mg PO DAILY  
9.  Levothyroxine Sodium 150 mcg PO DAILY  
10.  Multivitamins 1 TAB PO DAILY  
11.  Pravastatin 20 mg PO QPM  
12.  rufinamide 1000 mg oral BID  
13.  Vitamin D ___ UNIT PO DAILY  
14.Outpatient Physical Therapy

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Epilepsy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___
You were admitted to ___ for management of increased seizure 
frequency in setting of Fycompa wean. We started you on ONFI 
with improvement in your clinical events. 
Please take your medication as prescribed. We added ONFI 5mg 
twice daily. We also started you on ativan which we will slowly 
wean. 
You will take ativan 0.5mg twice daily for 2 more days ___ and 
___, followed by ativan 0.5mg daily for 3 days ( ___. 

Please follow up with neurology as below.

Per MA law you can't drive until 6 months seizure freedom. 
Please avoid height, swimming in open water or taking baths 
unsupervised. 

Your ___ Care Team!
 
Followup Instructions:
___